US07342118B2
2-(5,7-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid [1-(1,1-dimethyl-2-pyrrolidin-1-yl-ethyl)-1H-imidazol-4-yl]-amide
2-Amino-pentanoic acid [1-(1,1-dimethyl-2-pyrrolidin-1-yl-ethyl)-1H-imidazol-4-yl]-amide was reacted with 5,7-Difluoro-3,4-dihydro-1H-naphthalen-2-one to provide the title compound: C13 NMR (100 MHz, CDCl3) 14.2, 19.6, 19.6, 20.6, 24.3, 26.6, 28.4, 29.3, 36.5, 36.6, 37.1, 52.6, 56.0, 59.1, 60.6, 67.2, 101.3, 104.7, 111.2, 131.1, 172.3; MS m/z 474.4 (M+1).

reactant | 2-Amino-pentanoic acid [1-(1,1-dimethyl-2-pyrrolidin-1-yl-ethyl)-1H-imidazol-4-yl]-amide | CC(CN1CCCC1)(C)N1C=NC(=C1)NC(C(CCC)N)=O | C16H29N5O
reactant | 5,7-Difluoro-3,4-dihydro-1H-naphthalen-2-one | FC1=C2CCC(CC2=CC(=C1)F)=O | C10H8F2O
product | 2-(5,7-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid [1-(1,1-dimethyl-2-pyrrolidin-1-yl-ethyl)-1H-imidazol-4-yl]-amide | CC(CN1CCCC1)(C)N1C=NC(=C1)NC(C(CCC)NC1CC2=CC(=CC(=C2CC1)F)F)=O | C26H37F2N5O
